US04343803
Preparation of 6-Chloromethyl-4-Hydroxy-2-Trichloromethylpyrimidine
A mixture of 30.0 g (0.18 mole) trichloroacetamidine, 25.2 g (0.18 mole) potassium carbonate, 30.3 g (0.18 mole) ethyl-4-chloroacetoacetate and 400 ml water was stirred 18 hours. The aqueous solution was filtered and acidified with hydrochloric acid to give a precipitate. The precipitate was washed and dried to give 17.0 g (36% yield) of crude product. An analytical sample recrystallized from ligroin had mp 138°-144° C. The structure was confirmed via infrared and elemental analysis.

reactant | trichloroacetamidine | 0.18 mole, 30.0 g | ClC(C(=N)N)(Cl)Cl | C2H3Cl3N2
reactant | potassium carbonate | 0.18 mole, 25.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl-4-chloroacetoacetate | 0.18 mole, 30.3 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
solvent | water | 400 ml | O | H2O
product | 6-Chloromethyl-4-Hydroxy-2-Trichloromethylpyrimidine | 17.0 g, 36% yield | ClCC1=CC(=NC(=N1)C(Cl)(Cl)Cl)O | C6H4Cl4N2O
